US08258141B2
Step 4: N-((1S,2R,3S,4R)-4-{2-((R)-3-Amino-pyrrolidin-1-yl)-6-[2,2-bis-(4-hydroxy-phenyl)-ethylamino]-purin-9-yl}-2,3-dihydroxy-cyclopentyl)-propionamide
A solution of {(R)-1-[6-[2,2-Bis-(4-hydroxy-phenyl)-ethylamino]-9-((1R,2S,3R,4S)-2,3-dihydroxy-4-propionylamino-cyclopentyl)-9H-purin-2-yl]-pyrrolidin-3-yl}-carbamic acid tert-butyl ester trifluoroacetate (0.4 g, 0.57 mmol) in DCM (5 ml) and TFA (2.5 ml) is stirred at room temperature for 2 hours. The solvent is removed in vacuo to afford the title compound.

reactant | {(R)-1-[6-[2,2-Bis-(4-hydroxy-phenyl)-ethylamino]-9-((1R,2S,3R,4S)-2,3-dihydroxy-4-propionylamino-cyclopentyl)-9H-purin-2-yl]-pyrrolidin-3-yl}-carbamic acid tert-butyl ester trifluoroacetate | 0.57 mmol, 0.4 g | FC(C(=O)O)(F)F.C(C)(C)(C)OC(N[C@H]1CN(CC1)C1=NC(=C2N=CN(C2=N1)[C@H]1[C@@H]([C@@H]([C@H](C1)NC(CC)=O)O)O)NCC(C1=CC=C(C=C1)O)C1=CC=C(C=C1)O)=O
solvent | DCM | 5 ml | C(Cl)Cl | CH2Cl2
solvent | TFA | 2.5 ml | C(=O)(C(F)(F)F)O | C2HF3O2
product | N-((1S,2R,3S,4R)-4-{2-((R)-3-Amino-pyrrolidin-1-yl)-6-[2,2-bis-(4-hydroxy-phenyl)-ethylamino]-purin-9-yl}-2,3-dihydroxy-cyclopentyl)-propionamide | N[C@H]1CN(CC1)C1=NC(=C2N=CN(C2=N1)[C@H]1[C@@H]([C@@H]([C@H](C1)NC(CC)=O)O)O)NCC(C1=CC=C(C=C1)O)C1=CC=C(C=C1)O | C31H38N8O5
